US05179221
West German Patent No. 1,240,854 discloses a method for synthesizing 3-cyano-3,5,5-trimethyl cyclohexanone by causing isophorone to react with hydrogen cyanide in the presence of an alkali metal salt as a catalyst with methanol used as a dispersant for the catalyst. When this method was replicated, however, it was found that the reaction produced 3-cyano-3,5,5-trimethyl cyclohexane only in a low yield of about 70% and entailed by-production of a large amount of polymer of hydrogen cyanide. Thus, this method is problematic as a commercial process.

reactant | 3-cyano-3,5,5-trimethyl cyclohexanone | C(#N)C1(CC(CC(C1)(C)C)=O)C | C10H15NO
reactant | isophorone | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | hydrogen cyanide | C#N | CHN
solvent | methanol | CO | CH4O
product | 3-cyano-3,5,5-trimethyl cyclohexane | yield of about 70% | C(#N)C1(CCCC(C1)(C)C)C | C10H17N
